US08242145B2
Step 3: (3-{2-[((S)-1-Hydroxy-indan-2-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 45, Step 3, using the following starting materials: [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and (S)-2-amino-indan-1-ol.

reactant | [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O4
reactant | (S)-2-amino-indan-1-ol | NC1[C@H](C2=CC=CC=C2C1)O | C9H11NO
product | (3-{2-[((S)-1-Hydroxy-indan-2-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC1[C@H](C2=CC=CC=C2C1)O)=O | C26H24F3NO4
